US06310079B1
To a solution of (E)-3-(2,5-dimethylthiophene-3-yl)acrylic acid (328 mg, 1.8 mmol) in benzene (10 ml) was added thionyl chloride (0.5 ml) and the mixture was heated to reflux for 60 min. Volatiles were removed by evaporation to give crude (E)-3-(2,5-dimethylthiophene-3-yl)acryloyl chloride. Free base of the titled compound was prepared from N-(2-pyridyl)-o-phenylenediamine (250 mg, 1.4 mmol) and (E)-3-(2,5-dimethylthiophene-3-yl)acryloyl chloride obtained as above according to the preparation of (E)-1-(2-pyridyl)-2-styryl-1H-benzimidazole (Example 1, method A). The free base was dissolved with a 10% methanol solution of hydrogen chloride (5 ml). Concentration and recrystallization from ethyl acetate/ethanol yielded the titled compound.

reactant | (E)-3-(2,5-dimethylthiophene-3-yl)acrylic acid | 1.8 mmol, 328 mg | CC=1SC(=CC1/C=C/C(=O)O)C | C9H10O2S
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | (E)-3-(2,5-dimethylthiophene-3-yl)acryloyl chloride | CC=1SC(=CC1/C=C/C(=O)Cl)C | C9H9ClOS
